US04507380
A mixture composed of 42.7 g (0.1 mol) of 1,4-dihydroxy-2-(N-hexadecylcarbamoyl)naphthalene, 50.1 g (0.3 mol) of 2-(p-nitrophenyl)ethanol, 19 g of p-toluenesulfonic acid and 600 ml of toluene was refluxed by heating for 5 hours and the resulting water was removed by azeotropic distillation. After allowing to cool, toluene was distilled from the reaction mixture under a reduced pressure and the residue was dissolved in ethyl acetate. After washing with water, the thyl acetate was distilled off under a reduced pressure to concentrate and the residue was purified by a silica gel chromatography to obtain 28.2 g of 2-(N-hexadecylcarbamoyl)-4-[2-(p-nitrophenyl)ethoxy]-1-naphthol.

reactant | 1,4-dihydroxy-2-(N-hexadecylcarbamoyl)naphthalene | 0.1 mol, 42.7 g | OC1=C(C=C(C2=CC=CC=C12)O)C(NCCCCCCCCCCCCCCCC)=O | C27H41NO3
reactant | 2-(p-nitrophenyl)ethanol | 0.3 mol, 50.1 g | [N+](=O)([O-])C1=CC=C(C=C1)CCO | C8H9NO3
reactant | p-toluenesulfonic acid | 19 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(N-hexadecylcarbamoyl)-4-[2-(p-nitrophenyl)ethoxy]-1-naphthol | 28.2 g | C(CCCCCCCCCCCCCCC)NC(=O)C1=C(C2=CC=CC=C2C(=C1)OCCC1=CC=C(C=C1)[N+](=O)[O-])O | C35H48N2O5
